US04372969
A mixture of 120 g (1 mole) styrene oxide and 59 g (1 mole) of isopropylamine are heated under reflux for 5 hours in 400 ml of methanol. The mixture is dry evaporated and the residue is dissolved in 500 ml of water. The desired free base which has precipitated is filtered and the solution is washed with 100 ml of hexane. The base is recrystallized from hexane, and the crystals are filtered and washed with 50 ml hexane and then dried. 89 g (yield=49%) of 2-isopropylamino-1-phenyl-1-ethanol are obtained. M.P. 90° C.

reactant | styrene oxide | 1 mole, 120 g | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | isopropylamine | 1 mole, 59 g | C(C)(C)N | C3H9N
solvent | methanol | 400 ml | CO | CH4O
product | 2-isopropylamino-1-phenyl-1-ethanol | 89 g, yield=49% | C(C)(C)NCC(O)C1=CC=CC=C1 | C11H17NO
